Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Adenomatous polyp in the proximal transverse colon
 
Major Surgical or Invasive Procedure:
1. Laparoscopic-assisted extended right colectomy.
2. Correction of small bowel malrotation.
3. Umbilical hernia repair.
(___)

 
History of Present Illness:
___ with newly diagnosed endoscopically unresectable polyp in 
the transverse colon detected during screening colonoscopy. The 
pt was asymptomatic at time of scope.  No h/o blood in stool, no 
melena, no change in calibre of stool, no sense of distention, 
no change in bowel habits.  No family h/o colon cancer, crohn's 
disease, ulcerative colitis, uterine cancer or ___ 
cancers. Colon polyp in transverse colon - is sessile and flat 
unresectable on colonoscopy.  We discussed that colorectal 
polyps are the precursors to adenocarcinoma of the colon and 
rectum and that  surgical or endoscopic removal of the polyp 
prevents the development of cancer.  We also discussed that some 
polyps already ___ a malignancy and that this is not 
diagnosed until after.   We discussed that the reason for this 
discrepancy is a sampling error during colonoscopic biopsy.  
Since the polyp is located in the transverse colon we decided to 
procede with partial colectomy.
 
Past Medical History:
PMH: PMR, ___ esophagus, HTN, colonic adenoma, osteopenia

PSH:  Venous ligation ? left (___), Cataract extract (left 
___, right ___, Mohs, ___ stage SCC right eyebrow (___)
 
Social History:
___
Family History:
CAD/PVD - Father, brother
___ Cancer - Brother    
Diabetes - Sister (on HD), brother
___ - sister
___ - Sister   
___ - Sister 

 
Physical Exam:
Discharge Physical Exam
gen: aao, nad
cv: rrr, no m/r/g
lungs: cta b/l
abdomen: soft, appropriately ttp, non distended, dressings c/d/i
extremeties: no edema, + pulses

 
Pertinent Results:
PACU Labs:
___ 12:01PM BLOOD WBC-15.1* RBC-4.03* Hgb-13.2 Hct-39.2 
MCV-97 MCH-32.8* MCHC-33.6 RDW-12.8 Plt ___
___ 12:01PM BLOOD Glucose-137* UreaN-17 Creat-0.8 Na-142 
K-3.4 Cl-102 HCO3-23 AnGap-20
___ 12:01PM BLOOD Albumin-4.3 Calcium-9.9 Phos-3.7 Mg-1.4*
___ 09:25PM BLOOD Na-135 K-5.1 Cl-104
___ 09:25PM BLOOD Mg-2.4
___ 12:01PM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:25PM BLOOD CK-MB-4 cTropnT-<0.01
___ 09:25PM BLOOD TSH-0.62
___ 11:30AM BLOOD CEA-2.6

Labs:
___ 06:15AM BLOOD Glucose-126* UreaN-10 Creat-0.7 Na-140 
K-4.0 Cl-104 HCO3-28 AnGap-12
___ 06:15AM BLOOD WBC-8.1 RBC-3.50* Hgb-11.7* Hct-33.6* 
MCV-96 MCH-33.3* MCHC-34.7 RDW-12.8 Plt ___

TTE (___): 
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF = 65%). There 
is considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

___ 06:15AM BLOOD WBC-8.1 RBC-3.50* Hgb-11.7* Hct-33.6* 
MCV-96 MCH-33.3* MCHC-34.7 RDW-12.8 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-15 Creat-0.7 Na-142 
K-3.6 Cl-100 HCO3-27 AnGap-19
___ 06:45AM BLOOD Calcium-9.8 Phos-3.0 Mg-1.5*
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ after laparoscopic-assisted extended right colectomy 
for endoscopically unresectable adenomatous polyp of the 
transverse colon. The procedure went well without complication 
(refer to the Operative Note by Dr. ___ details). In the 
PACU, the patient went into a fib with RVR and was started on a 
diltiazem drip. Within 4 hours she converted back to sinus 
rhythm. However the following evenings she again went in to 
atrial fibrillation with rapid ventricluar response and was not 
responsive to multiple doses of iv diltiazem. She was 
transferred to the unit overnight, and by the morning had 
spontaneously converted back in to sinus rhythm. She was kept on 
po diltiazem for 24 hours, and then switched to PO metoprolol. 
following these episodes she remained in sinus rhythm and stable 
for the duration of her admission. 
 
Neuro: The patient received morphine PCA with good effect and 
adequate pain control. Overnight on POD#2, pt was having 
paranoid delusions, so PCA was discontinued and narcotics were 
minimized.  When tolerating oral intake, the patient was 
transitioned to oral pain medications.
 
CV: Her immediate post-operative course was complicated by 
atrial fibrillation with RVR in the PACU, which was rate 
controlled with a diltiazem drip. She remained asymptomatic and 
hemodynamically stable. She spontaneously converted to sinus 
rhythm approximately after 4 hours of being in atrial 
fibrillation. The cardiology team was consulted. A TTE showed no 
abnormalities, and TSH was normal. The patient continued to be 
monitored on telemetry on the floor, and she remained in sinus 
rhythm. She was continued on diltiazem PO temporarily, which was 
discontinued on POD#2. However the following evenings she again 
went in to atrial fibrillation with rapid ventricluar response 
and was not responsive to multiple doses of iv diltiazem. She 
was transferred to the unit overnight, and by the morning had 
spontaneously converted back in to sinus rhythm. She was kept on 
po diltiazem for 24 hours, and then switched to PO metoprolol. 
following these episodes she remained in sinus rhythm and stable 
for the duration of her admission. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
 
GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated.  Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary.  Electrolytes were 
routinely followed, and repleted when necessary.

ID:  The patient's white blood count and fever curves were 
closely watched for signs of infection. Overnight on POD#2, pt 
was having paranoid delusions, and a UA was positive. Pt was 
started on ciprofloxacin for a UTI. Urine culture showed fecal 
contamination and she remained on a short course of 
ciprofloxacin.
 
Endocrine: The pt was restarted on her home prednisone dose for 
PMR on POD#2. TSH was checked given atrial fibrillation, which 
was normal.

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
 
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs, and in normal sinus rhythm.  The 
patient was tolerating a regular diet, ambulating, voiding 
without assistance, and pain was well controlled.  The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 

 
Medications on Admission:
hydrochlorothiazide (HYDRODIURIL) 25 mg Oral tablet TAKE 1 
TAB(S) ORALLY ONCE A DAY 
pantoprazole (PROTONIX) 20 mg Oral tablet,delayed release 
(___) Take 1 tablet daily 30 mins before first meal of day 
tretinoin 0.025 % Topical Cream apply once daily 
predniSONE 1 mg Oral tablet take 2 tabs daily with breakfast 
MULTIVITAMIN ORAL daily 
Magnesium 500 mg Oral tablet TAKE 1 TAB(S) ORALLY ONCE A DAY 
(OTC) 
Acetaminophen 500 mg Oral Tablet AS DIRECTED - usually takes  

 
Discharge Medications:
1. Acetaminophen 500 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. PredniSONE 1 mg PO DAILY 
5. Tretinoin 0.025% Cream 1 Appl TP DAILY 
6. Ciprofloxacin HCl 500 mg PO Q12H Duration: 1 Day 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth q12hr Disp #*3 
Tablet Refills:*0
7. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6hr prn Disp #*30 
Tablet Refills:*0
9. Magnesium Oxide 500 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unresectable right transverse colon polyp

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the general surgery service following 
laparoscopic-assisted extended right colectomy for an 
unresectable right transverse colon polyp. You tolerated the 
procedure well. Your post-operative course was complicated by 
new onset atrial fibrillation with rapid ventricular response 
that was difficult to control. Because of this, you required a 
short stay in the ICU. You spontaneously converted back to 
normal sinus rhythm, and were started on metoprolol and given 
some gentle diuresis with lasix. You remained in sinus rhythm 
and are now stable for discharge home. 

Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
 
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
 
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Please follow-up with your surgeon as advised.
 
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

Please call the general surgery office at ___ (___) 
or ___ (___) to arrange a follow up appointment 
with Dr. ___ in ___ weeks.
 
Followup Instructions:
___